US09339502B2
Step 3: 1-Methoxy-2-nitro-5,7,8,9-tetrahydro-benzocyclohepten-6-one:
To potassium nitrate in acetonitrile (50 mL) and trifluoroacetic anhydride (100 mL) at 0° C. was added dropwise 1-methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one (25 g, 0.131 mol) in 50 mL acetonitrile. The reaction was stirred for 2.5 hours while warming to RT. The reaction was concentrated without heat on a rotary evaporator. MeOH was added and stirred briefly. Reconcentrated and worked-up by partitioning between dichloromethane and sat. sq. sodium bicarbonate solution. The organic layer was separated and dried (Mg2SO4), concentrated and purified by chromatography ISCO (330 g silica cartridge: gradient elution−10 to 50% EA:HEX over 60 minutes) affording two isomers. The title compound was the later eluting (10.7 grams, 34.6% yield). 1H-NMR (400 MHz, CDCl3) 7.70 (d, J=8.3 Hz, 1H), 7.06 (d, J=8.3 Hz, 1H), 3.92 (s, 3H), 3.80 (s, 2H), 3.13-3.09 (m, 2H), 2.60 (t, J=7.0 Hz, 2H), 2.10-2.03 (m, 2H).

reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
reactant | 1-methoxy-5,7,8,9-tetrahydro-benzocyclohepten-6-one | 0.131 mol, 25 g | COC1=CC=CC2=C1CCCC(C2)=O | C12H14O2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | trifluoroacetic anhydride | 100 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-Methoxy-2-nitro-5,7,8,9-tetrahydro-benzocyclohepten-6-one | 34.6% yield | COC1=C(C=CC2=C1CCCC(C2)=O)[N+](=O)[O-] | C12H13NO4
